US04018824
1-(sec.-butyl)-3-azetidinol and m-cresol were reacted in the same manner as in Example 6 to yield 1-(3-methyl-phenoxy)-3-(sec.-butylamino)-2-propanol. A hydrochloric acid gas was blown to yield 1-(3-methylphenoxy)-3-(sec.-butylamino)-2-propanol hydrochloride melting at 159°-160° C. The yield was 69%.

reactant | 1-(sec.-butyl)-3-azetidinol | C(C)(CC)N1CC(C1)O | C7H15NO
reactant | m-cresol | C1=C(C=CC=C1O)C | C7H8O
product | 1-(3-methyl-phenoxy)-3-(sec.-butylamino)-2-propanol | CC=1C=C(OCC(CNC(C)CC)O)C=CC1 | C14H23NO2
